US07482456B2
Step 1: 2-chloro-3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridine
A mixture of 2-chloro nicotinoyl chloride (1.0 eq.) and N′-hydroxy ethanimidamide (1.1 eq) in pyridine (0.6 M) was stirred at 100° C. for 4 h and then concentrated. The residue was purified by flash chromatography (Hexane:EtOAc, 70:30) to afforded the title compound.

reactant | 2-chloro nicotinoyl chloride | 1.0 eq. | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | N′-hydroxy ethanimidamide | 1.1 eq | ON=C(C)N | C2H6N2O
solvent | pyridine | 0.6 M | N1=CC=CC=C1 | C5H5N
product | 2-chloro-3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridine | ClC1=NC=CC=C1C1=NC(=NO1)C | C8H6ClN3O
